US04105776
A solution of 1-[3-[[(ethylthio)thiocarbonyl]thio]propanoyl]-L-proline in ethyl acetate is treated with an ethereal solution of diazomethane until persistent yellow color. After discharging the yellow color with a few drops of acetic acid, the solvents are removed in vacuo to yield 1-[3-[[(ethylthio)thiocarbonyl]thio]propanoyl]-L-proline methyl ester.

reactant | 1-[3-[[(ethylthio)thiocarbonyl]thio]propanoyl]-L-proline | C(C)SC(=S)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C11H17NO3S3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 1-[3-[[(ethylthio)thiocarbonyl]thio]propanoyl]-L-proline methyl ester | COC([C@H]1N(CCC1)C(CCSC(=S)SCC)=O)=O | C12H19NO3S3
